US08110575B2
3-methyl-2,3-dihydro-1H-indole
Under a nitrogen atmosphere 0.58 g (9.2 mmol) sodium cyanoborohydride were added batchwise to 1.0 g (7.6 mmol) 3-methylindole in 5.0 mL glacial acetic acid and the mixture was stirred for 60 min at RT. Then the reaction mixture was poured onto a 4N aqueous sodium hydroxide solution and extracted with EtOAc. The combined organic phases were washed several times with saturated sodium hydrogen carbonate solution, dried on sodium sulphate and evaporated down.

reactant | sodium cyanoborohydride | 9.2 mmol, 0.58 g | C(#N)[BH3-].[Na+]
reactant | 3-methylindole | 7.6 mmol, 1.0 g | CC1=CNC2=CC=CC=C12 | C9H9N
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | acetic acid | 5.0 mL | C(C)(=O)O | C2H4O2
product | 3-methyl-2,3-dihydro-1H-indole | CC1CNC2=CC=CC=C12 | C9H11N
